US09056859B2
Freshly prepared (3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde was dissolved in DCM. To the solution was added Boc-piperazine (671 mg, 3.6 mmol) followed by sodium triacetoxyborohydride (1.91 g, 9.0 mmol), the reaction mixture was allowed to stir overnight before being quenched with 10 mL of MeOH. The excess solvent was removed and the residue was re-redissolved in DCM; washed with water and brine, dried with magnesium sulfate, filtered, concentrated and purified via MPLC (50-100% EtOAc/Hex) to afford tert-butyl 4-[2-(3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)ethyl]piperazine-1-carboxylate.

reactant | (3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde | CC1OC(C2=CC=C(C=C2C1)CC=O)=O | C12H12O3
reactant | Boc-piperazine | 3.6 mmol, 671 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium triacetoxyborohydride | 9.0 mmol, 1.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[2-(3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)ethyl]piperazine-1-carboxylate | CC1OC(C2=CC=C(C=C2C1)CCN1CCN(CC1)C(=O)OC(C)(C)C)=O | C21H30N2O4
